US03971819
A solution of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (28 g) in dry ethanol (250 ml) was saturated with gaseous hydrogen chloride. The reaction mixture was allowed to ware during the inlet of the hydrogen chloride. After standing for 3 hours, the solvent was removed by evaporation in vacuo. The residue was dissolved in a mixture of diethyl ether and dilute sodium hydrogen carbonate. The organic layer was separated, washed with water and dried. The diethyl ether was distilled off, and the residue was recrystallized from dry ethanol, yielding the ethyl-4-chloro-3-nitro-5-sulphamyl-benzoate with a melting point of 154°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 28 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl-4-chloro-3-nitro-5-sulphamyl-benzoate | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)[N+](=O)[O-])=O | C9H9ClN2O6S
